### PR TITLE
Refactoring positive integers

### PR DESCRIPTION
**Pull request by malarbol**
Resolves https://github.com/UniMath/agda-unimath/issues/1043.

### CODE REVIEW

File: src/elementary-number-theory/inequality-integer-fractions.lagda.md [hunk 1]
```diff
@@ -80,11 +84,14 @@ module _
...
+        ( cross-mul-diff-fraction-ℤ x y)
         ( H)
-        ( is-nonnegative-eq-ℤ
-            ( inv ( skew-commutative-cross-mul-diff-fraction-ℤ x y))
-            ( H')))
+        ( is-nonpositive-eq-ℤ
+          ( skew-commutative-cross-mul-diff-fraction-ℤ y x)
+          ( is-nonpositive-neg-is-nonnegative-ℤ
+            ( cross-mul-diff-fraction-ℤ y x)
+            ( H'))))
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-integer-fractions.lagda.md:94]: Here there seems like you made some arguments explicit that were previously implicit. Did Agda force you to pass those arguments explicitly elsewhere?

File: src/elementary-number-theory/divisibility-integers.lagda.md [hunk 2]
```diff
@@ -657,23 +660,21 @@ is-plus-or-minus-sim-unit-ℤ {x} {y} H | inr nz | inr p =
...
+        ( is-nonpositive-eq-ℤ
+          ( inv (ap neg-ℤ m) ∙ (neg-neg-ℤ a))
+          ( is-nonpositive-neg-is-nonnegative-ℤ b H'))
+
+    β : is-zero-ℤ b
+    β =
+      is-zero-is-nonnegative-is-nonpositive-ℤ b H'
+        ( is-nonpositive-eq-ℤ
+          ( m)
+          ( is-nonpositive-neg-is-nonnegative-ℤ a H))
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/divisibility-integers.lagda.md:679]: So, I know there was a little misunderstanding with your previous PR where I thought you could pattern match on a particular argument that you couldn't. But in general, we try to avoid `with` constructs and `where` blocks in agda-unimath. When it comes to `with` constructs, we usually prefer applying the recursion/induction principle explicitly, and a `where` block typically suggests that an extra lemma should be defined/used.

File: src/elementary-number-theory/inequality-integers.lagda.md [hunk 3]
```diff
@@ -53,8 +58,13 @@ refl-leq-ℤ k = tr is-nonnegative-ℤ (inv (right-inverse-law-add-ℤ k)) star
...
   eq-diff-ℤ
-    ( is-zero-is-nonnegative-ℤ K
-      ( is-nonnegative-eq-ℤ (inv (distributive-neg-diff-ℤ x y)) H))
+    ( is-zero-is-nonnegative-is-nonpositive-ℤ
+        ( x -ℤ y)
+        ( K)
+        ( tr
+          ( is-nonpositive-ℤ)
+          ( distributive-neg-diff-ℤ y x)
+          ( is-nonpositive-neg-is-nonnegative-ℤ (y -ℤ x) H)))
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-integers.lagda.md:67]: What was wrong with the previous definition?

File: src/elementary-number-theory/integers.lagda.md [hunk 4]
```diff
@@ -260,236 +260,22 @@ pred-neg-ℤ (inr (inl star)) = refl
...
-  (x : ℤ) → ¬ (is-positive-ℤ x) → is-nonpositive-ℤ x
-is-nonpositive-not-is-positive-ℤ x H with decide-is-positive-ℤ {x}
-... | inl K = ex-falso (H K)
-... | inr K = K
+is-injective-neg-ℤ : is-injective neg-ℤ
+is-injective-neg-ℤ {x} {y} p = inv (neg-neg-ℤ x) ∙ ap neg-ℤ p ∙ neg-neg-ℤ y
 ```
 
-#### Relation between successors of natural numbers and integers
+### Relation between successors of natural numbers and integers
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/integers.lagda.md:270]:
```suggestion
### The integer successor of a natural number is the successor of the natural number
```

File: src/elementary-number-theory/negative-integers.lagda.md [hunk 5]
```diff
@@ -0,0 +1,121 @@
...
+```
+
+### The negative integers are a `Set`
+
+```agda
+is-set-negative-ℤ : is-set negative-ℤ
+is-set-negative-ℤ =
+  is-set-emb
+    ( emb-subtype subtype-negative-ℤ)
+    ( is-set-ℤ)
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/negative-integers.lagda.md:97]:
```suggestion
  is-set-type-subtype (subtype-negative-ℤ) (is-set-ℤ)
```
is even cleaner :)

File: src/elementary-number-theory/positive-and-negative-integers.lagda.md [hunk 6]
```diff
@@ -0,0 +1,252 @@
...
+open import foundation.unit-type
+open import foundation.universe-levels
+```
+
+</details>
+
+## Idea
+
+The relations between negativity, nonpositivity, nonnegativity and positivity of
+integers
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/positive-and-negative-integers.lagda.md:45]:
```suggestion
In this file, we outline basic relations between negative, nonpositive, nonnegative, and positive 
integers.
```

**Comment by fredrik-bakke** [comment]
Your work looks pretty good so far by the way!

File: src/elementary-number-theory/inequality-integer-fractions.lagda.md (hunk 1 above)
Comment (malarbol) [reply src/elementary-number-theory/inequality-integer-fractions.lagda.md:95]: yeah, sorry, I got a bit confused by

### Addition of nonnegative integers is nonnegative

```agda
is-nonnegative-add-ℤ :
  (k l : ℤ) →
  is-nonnegative-ℤ k → is-nonnegative-ℤ l → is-nonnegative-ℤ (k +ℤ l)
is-nonnegative-add-ℤ (inr (inl star)) (inr (inl star)) p q = star
is-nonnegative-add-ℤ (inr (inl star)) (inr (inr n)) p q = star
is-nonnegative-add-ℤ (inr (inr zero-ℕ)) (inr (inl star)) p q = star
is-nonnegative-add-ℤ (inr (inr (succ-ℕ n))) (inr (inl star)) star star =
  is-nonnegative-succ-ℤ
    ( (inr (inr n)) +ℤ (inr (inl star)))
    ( is-nonnegative-add-ℤ (inr (inr n)) (inr (inl star)) star star)
is-nonnegative-add-ℤ (inr (inr zero-ℕ)) (inr (inr m)) star star = star
is-nonnegative-add-ℤ (inr (inr (succ-ℕ n))) (inr (inr m)) star star =
  is-nonnegative-succ-ℤ
    ( (inr (inr n)) +ℤ (inr (inr m)))
    ( is-nonnegative-add-ℤ (inr (inr n)) (inr (inr m)) star star)
```

### Addition of positive integers is positive

```agda
is-positive-add-ℤ :
  {x y : ℤ} → is-positive-ℤ x → is-positive-ℤ y → is-positive-ℤ (x +ℤ y)
is-positive-add-ℤ {inr (inr zero-ℕ)} {inr (inr y)} H K = star
is-positive-add-ℤ {inr (inr (succ-ℕ x))} {inr (inr y)} H K =
  is-positive-succ-ℤ
    ( is-nonnegative-is-positive-ℤ
      ( is-positive-add-ℤ {inr (inr x)} {inr (inr y)} star star))
is-positive-add-nonnegative-positive-ℤ :
  {x y : ℤ} → is-nonnegative-ℤ x → is-positive-ℤ y → is-positive-ℤ (x +ℤ y)
is-positive-add-nonnegative-positive-ℤ {inr (inl x)} {y} H H' =
  is-positive-eq-ℤ refl H'
is-positive-add-nonnegative-positive-ℤ {inr (inr x)} {y} H H' =
  is-positive-add-ℤ {inr (inr x)} {y} H H'
is-positive-add-positive-nonnegative-ℤ :
  {x y : ℤ} → is-positive-ℤ x → is-nonnegative-ℤ y → is-positive-ℤ (x +ℤ y)
is-positive-add-positive-nonnegative-ℤ {x} {y} H H' =
  is-positive-eq-ℤ
    ( commutative-add-ℤ y x)
    ( is-positive-add-nonnegative-positive-ℤ H' H)
```

with explicit arguments for `nonnegative` and implicit ones for `positive`. I may have ended up with more explicit arguments than needed. I'll try to clean that up.

File: src/elementary-number-theory/divisibility-integers.lagda.md (hunk 2 above)
Comment (malarbol) [reply src/elementary-number-theory/divisibility-integers.lagda.md:679]: ok. Sorry. I'll give it another go.

**Comment by malarbol** [comment]
>I quite like your organization of the concepts into their own files + a file about the relations between them. But if I didn't misunderstand @EgbertRijke rather wanted one file for all 5? Maybe he can comment on that.

yes, I'm the one who suggested the single-file solution but I must say I got to appreciate the 4+1 modules. It gives slightly more room to separate specific-concepts properties and cross-concepts properties. 

I don't know the library policy around `public` imports but maybe the `positive-and-negative-integers` module could re-export the four others, to avoid having to import the five modules everywhere ?

I'll continue cleaning up the rest for a while and we can always merge the five modules when we're sure.

File: src/elementary-number-theory/inequality-integer-fractions.lagda.md (hunk 1 above)
Comment (malarbol) [reply src/elementary-number-theory/inequality-integer-fractions.lagda.md]: As a matter of fact, it was another instance of me trying to get rid of `is-zero-is-nonnegative-ℤ` so I put `is-zero-is-nonnegative-neg-is-nonnegative-ℤ` back. 

But I did have some inconsistencies with implicit/explicit variables that I tried to fix so thanks for pointing it out.

File: src/elementary-number-theory/divisibility-integers.lagda.md (hunk 2 above)
Comment (malarbol) [reply src/elementary-number-theory/divisibility-integers.lagda.md]: This should be better now.

**Comment by fredrik-bakke** [comment]
> > I quite like your organization of the concepts into their own files + a file about the relations between them. But if I didn't misunderstand @EgbertRijke rather wanted one file for all 5? Maybe he can comment on that.
> 
> yes, I'm the one who suggested the single-file solution but I must say I got to appreciate the 4+1 modules. It gives slightly more room to separate specific-concepts properties and cross-concepts properties.
> 
> I don't know the library policy around `public` imports but maybe the `positive-and-negative-integers` module could re-export the four others, to avoid having to import the five modules everywhere?
> 
> I'll continue cleaning up the rest for a while and we can always merge the five modules when we're sure.

We usually only publicly import a module if it is to be viewed as a submodule. I don't really think that's what's going on here, so to keep the library consistent on this point I suggest that we don't import them publicly for now.

File: src/elementary-number-theory/inequality-integer-fractions.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/elementary-number-theory/inequality-integer-fractions.lagda.md]: There is guaranteed to be a lot of inconsistencies with regard to explicit vs. implicit arguments in the namespace. I'd appreciate if you noted any instances that you don't end up fixing in your PR!

**Comment by fredrik-bakke** [comment]
Btw, you'd probably like to know that I'm doing a lot of refactoring of operations on propositions in #1008, and some of the basic notation will change. In case you get confused by that 😄

**Review by fredrik-bakke — COMMENTED** [review]
Seems like this refactoring is really shaping out! Thank you so much for working on this, and do let me know when you want more comments on your work.

File: src/elementary-number-theory/inequality-integer-fractions.lagda.md (hunk 1 above)
Comment (malarbol) [reply src/elementary-number-theory/inequality-integer-fractions.lagda.md]: Hello again.

>I'd appreciate if you noted any instances that you don't end up fixing in your PR!

I'll do my best, and I'll try to be consistent on that matter. 
I do have a question though: 

In the `inequality-integers` module you have

```preserves-strict-order-add-ℤ :
  {x y : ℤ} (z : ℤ) → le-ℤ x y → le-ℤ (z +ℤ x) (z +ℤ y)
```
with two implicit arguments and the common term explicit while in the `mulitplication-integers` you have
```
preserves-leq-left-mul-ℤ :
  (x y z : ℤ) → is-nonnegative-ℤ z → leq-ℤ x y → leq-ℤ (z *ℤ x) (z *ℤ y)
```
with three explicit arguments and, in my current suggestion, I had
```
preserves-leq-left-mul-ℤ :
  {x y z : ℤ} → is-nonnegative-ℤ z → leq-ℤ x y → leq-ℤ (z *ℤ x) (z *ℤ y)
```
with three implicit arguments.

II think we should use the same scheme for all these kinds of functions (`preserves-leq-right-mul-ℤ`, `preserves-le-right-mul-ℤ`, etc.) so which one do you prefer?

By the way, I also suggest to rename `preserves-strict-order-add-ℤ` to `preserves-le-left-add-ℤ` (and the others); is this ok or do you prefer the `preserves-order` and `preserves-strict-order` names?

**Comment by malarbol** [comment]
>Btw, you'd probably like to know that I'm doing a lot of refactoring of operations on propositions in https://github.com/UniMath/agda-unimath/pull/1008, and some of the basic notation will change. In case you get confused by that 😄

ok; I'll update the branch when you merge your changes and fix the conflicts of notations. But if there are any names that I should already change to fit the new notations you can point them out.

>Seems like this refactoring is really shaping out! Thank you so much for working on this, and do let me know when you want more comments on your work.

Thanks! I still have a few things to cleanup but I should be ready soon.

File: src/elementary-number-theory/inequality-integer-fractions.lagda.md (hunk 1 above)
Comment (malarbol) [reply src/elementary-number-theory/inequality-integer-fractions.lagda.md]: I gave it a few more thoughts and I have a suggestion for both questions.

I think that
```agda
preserves-le-right-mul-ℤ :
  {x y z : ℤ} → is-positive-ℤ z → le-ℤ x y → le-ℤ (x *ℤ z) (y *ℤ z)
```
would actually be cleaner if we define
```agda
int-mul-positive-ℤ : positive-ℤ → ℤ → ℤ
int-mul-positive-ℤ x y = int-positive-ℤ x *ℤ y

int-mul-positive-ℤ' : positive-ℤ → ℤ → ℤ
int-mul-positive-ℤ' x y = y *ℤ int-positive-ℤ x
```
and then
```agda
preserves-le-mul-positive-ℤ' :
  {x y : ℤ} (z : positive-ℤ) →
  le-ℤ x y → le-ℤ (int-mul-positive-ℤ' z x) (int-mul-positive-ℤ' z y)
```
with `z` explicit to mark that it's "special"  and leaving `x` and `y` implicit; so I'd go for this solution everywhere (2 implicit arguments, 1 explicit).

Regarding the name, my idea was that, if we defined something like this (but I'm not suggesting that we do):
```agda
preserves : {l1 l2 l3 : Level} {A : UU l1} {B : UU l2}
  (Rel : A → A → UU l3) (op : B → A → A) → UU (l1 ⊔ l2 ⊔ l3)
preserves {l1} {l2} {l3} {A} {B} rel op =
  {x y : A} (z : B) → rel x y → rel (op z x) (op z y)
```
then the type signatures would become something like this:
``` agda
preserves-le-mul-positive-ℤ : preserves le-ℤ int-mul-positive-ℤ
preserves-le-mul-positive-ℤ' : preserves le-ℤ int-mul-positive-ℤ'
```
which would parse quite nicely.

Maybe there already is in the library a function similar to `preserves`, if so, we could just take its name and type signature for our `preserves-XXX` functions.

**Comment by malarbol** [comment]
>do let me know when you want more comments on your work.

Well, hello again; I think my refactoring is ready for another review. Regarding the points of your issue #1043 :

> Factor strict inequality into their own files separate from inequality

I'm not sure I'd advocate for that. As for the positive/negative/etc. It makes functions like `leq-le-XX` or `concatenate-leq-le-XX` orphan of a natural module to go to.

> Decide on whether to go for the formulation preserves-strict-order or preserves-le

As I said before, I'd go with `preserves-le-XX` and `preserves-le-XX'` but that's just my opinion. In that case I think there would be some cleanup to do, especially on natural numbers to unify the notation and the type signatures, e.g.

```agda
preserves-order-mul-ℕ :
  (k m n : ℕ) → m ≤-ℕ n → (m *ℕ k) ≤-ℕ (n *ℕ k)
```
could become
```agda
preserves-le-mul-ℕ' : {m n : ℕ} (k : ℕ) → m ≤-ℕ n → (m *ℕ k) ≤-ℕ (n *ℕ k)
```
and so on. The same goes for the `reflects-XXX` functions. If you're happy with the naming scheme I suggest, I can try to fix these too. Or maybe we can leave that for another PR. As you wish.

> Factor out positive and negative integers into a separate module(s).

This is actually the main point of this PR.

> Define the expected implications: strict inequality implies inequality

Done for integers, integers fractions and rationals. Was already done for natural numbers. Did you have any more cases in mind?

> Define the expected entries where decidability is claimed.

I think they're still a few gaps I can fill here but maybe we can review a bit my work so far. There is still the "4+1 vs 1" question for positive/etc. integers that is not completely settled. 

 I know you are already quite busy with other issues/PR/etc. so thank you again a lot for your consideration.

**Comment by fredrik-bakke** [comment]
Hi again, thank you so much for your work, and apologies for taking so long to get back to you. Indeed, I have been quite busy. I will prioritize writing a proper review of your PR soon. In the meantime, I will try to reply to your comments.

> > Factor strict inequality into their own files separate from inequality
> 
> I'm not sure I'd advocate for that. As for the positive/negative/etc. It makes functions like `leq-le-XX` or `concatenate-leq-le-XX` orphan of a natural module to go to.

I guess in my mind, strict inequality comes after non-strict inequality, so all definitions pertaining to their interrelation would go in the file about strict inequality. Do you think that is a bad approach?

> > Decide on whether to go for the formulation preserves-strict-order or preserves-le
> 
> As I said before, I'd go with `preserves-le-XX` and `preserves-le-XX'` but that's just my opinion. In that case I think there would be some cleanup to do, especially on natural numbers to unify the notation and the type signatures, e.g.
> 
> ```agda
> preserves-order-mul-ℕ :
>   (k m n : ℕ) → m ≤-ℕ n → (m *ℕ k) ≤-ℕ (n *ℕ k)
> ```
> 
> could become
> 
> ```agda
> preserves-le-mul-ℕ' : {m n : ℕ} (k : ℕ) → m ≤-ℕ n → (m *ℕ k) ≤-ℕ (n *ℕ k)
> ```
> 
> and so on. The same goes for the `reflects-XXX` functions. If you're happy with the naming scheme I suggest, I can try to fix these too. Or maybe we can leave that for another PR. As you wish.

That seems like a good assessment to me! Note that it should be `leq` in `preserves-leq-mul-ℕ'` and in this case a better name is actually `preserves-leq-left-mul-ℕ` :)

> > Factor out positive and negative integers into a separate module(s).
> 
> This is actually the main point of this PR.
> 
> > Define the expected implications: strict inequality implies inequality
> 
> Done for integers, integers fractions and rationals. Was already done for natural numbers. Did you have any more cases in mind?

Not sure at the moment, but that is good for now. The reason I wanted those was because it opens up reuse of some other proofs, although at the moment I can't seem to remember what exactly. Was it that the relations are decidable?

> > Define the expected entries where decidability is claimed.
> 
> I think they're still a few gaps I can fill here but maybe we can review a bit my work so far. There is still the "4+1 vs 1" question for positive/etc. integers that is not completely settled.

Yes, I will review this ASAP! 🚀

File: src/elementary-number-theory/inequality-integer-fractions.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/elementary-number-theory/inequality-integer-fractions.lagda.md]: I think what you're describing in your last comment is a [homomorphism of preorders](https://unimath.github.io/agda-unimath/order-theory.order-preserving-maps-preorders.html) 😄 Note that `preserves` is way too generic of a word for us to ascribe it to this specific thing.

**Comment by malarbol** [comment]
Hi! 

>  thank you so much for your work, and apologies for taking so long to get back to you. Indeed, I have been quite busy. I will prioritize writing a proper review of your PR soon. In the meantime, I will try to reply to your comments.

no problem, and no rush.

>I guess in my mind, strict inequality comes after non-strict inequality, so all definitions pertaining to their interrelation would go in the file about strict inequality. Do you think that is a bad approach?

I don't know if it's a bad idea but it does seem a bit arbitrary. If you don't define one in term of the other, it's not clear to me which one should come first... 

>I think what you're describing in your last comment is a [homomorphism of preorders](https://unimath.github.io/agda-unimath/order-theory.order-preserving-maps-preorders.html) 😄 

Indeed, or maybe even homomorphisms of posets I guess. Do you have a version that would be compatible with the strict ordering? 

> Note that it should be leq in preserves-leq-mul-ℕ' and in this case a better name is actually preserves-leq-left-mul-ℕ :)

sorry, I messed my exemple up and It should be `preserves-leq-mul-ℕ'`. 

Regarding the `left/right` vs `op-X/op-X'`, I'll have to give it a few mow thoughts. I'll try to make sense of all of it and I'll get back to you with a new suggestion. For exemple, the two functions
```agda
preserves-order-mul-ℕ :
  (k m n : ℕ) → m ≤-ℕ n → (m *ℕ k) ≤-ℕ (n *ℕ k)

preserves-order-mul-ℕ' :
  (k m n : ℕ) → m ≤-ℕ n → (k *ℕ m) ≤-ℕ (k *ℕ n)
```
are basically
```agda
preserves-order-mul-ℕ : (k : ℕ) → preserves-order-Poset ℕ-Poset ℕ-Poset (mul-ℕ' k)
preserves-order-mul-ℕ' : (k : ℕ) → preserves-order-Poset ℕ-Poset ℕ-Poset (mul-ℕ k)
```
so maybe the names should be swapped, and maybe it's the "good type signature" to adopt for the rest of similar functions.

I'll try to have a clean proposal in the next few days. Again, thanks for your consideration, and we'll be in touch.

**Comment by malarbol** [comment]
By the way, I may have written my transitivity properties in the wrong order, so as for now defining `ℤ-Preorder` is a bit weird:
```agda
ℤ-Preorder : Preorder lzero lzero
ℤ-Preorder =
  ℤ , leq-ℤ-Prop , refl-leq-ℤ , λ x y z H K → transitive-leq-ℤ x y z K H
```
Do you want me to rewrite them in the "compositional order" so the transitivity rules for inequalities corresponds to the definition of [is-transitive](https://unimath.github.io/agda-unimath/foundation.binary-relations.html#4095)?

**Comment by malarbol** [comment]
And last question for tonight, do you have something similar to the following?
```agda
preserves-rel : {l1 l2 : Level} {A : UU l1}
  (rel : A → A → UU l2) (f : A → A) → UU (l1 ⊔ l2)
preserves-rel {l1} {l2} {A} rel f =
  (x y : A) → rel x y → rel (f x) (f y)
```
In that case, maybe
```agda
preserves-leq-add-ℤ' : (z : ℤ) → preserves-rel leq-ℤ (add-ℤ' z)
```
could also be a good candidate?

**Comment by fredrik-bakke** [comment]
> By the way, I may have written my transitivity properties in the wrong order, so as for now defining `ℤ-Preorder` is a bit weird:
> 
> ```agda
> ℤ-Preorder : Preorder lzero lzero
> ℤ-Preorder =
>   ℤ , leq-ℤ-Prop , refl-leq-ℤ , λ x y z H K → transitive-leq-ℤ x y z K H
> ```
> 
> Do you want me to rewrite them in the "compositional order" so the transitivity rules for inequalities corresponds to the definition of [is-transitive](https://unimath.github.io/agda-unimath/foundation.binary-relations.html#4095)?

Yes. Note that every other definition of transitivity in the library uses the compositional order. It is also useful to define a `trans-leq-ℤ` that takes `x y z` as implicit arguments

**Comment by fredrik-bakke** [comment]
> And last question for tonight, do you have something similar to the following?
> 
> ```agda
> preserves-rel : {l1 l2 : Level} {A : UU l1}
>   (rel : A → A → UU l2) (f : A → A) → UU (l1 ⊔ l2)
> preserves-rel {l1} {l2} {A} rel f =
>   (x y : A) → rel x y → rel (f x) (f y)
> ```

Ah, yes, sorry. This would be a morphism of directed graphs. 😅

**Review by fredrik-bakke — APPROVED** [review]
Sorry for writing so many comments. 😅 Your work is already very good, and looks ready to be merged soon!

File: src/elementary-number-theory/inequality-integers.lagda.md [hunk 7]
```diff
@@ -98,125 +157,133 @@ concatenate-eq-leq-ℤ :
...
+      ( distributive-neg-diff-ℤ y x)
+      ( is-nonpositive-neg-is-nonnegative-ℤ
+        ( is-nonnegative-is-positive-ℤ p)))
+```
+
+### The strict ordering on the integers is connected
 
+```agda
 connected-le-ℤ : (x y : ℤ) → x ≠ y → le-ℤ x y + le-ℤ y x
 connected-le-ℤ x y H =
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/elementary-number-theory/inequality-integers.lagda.md:230]: Similarly, what is the most general setting in which one can speak of a _dense relation_?

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/elementary-number-theory/inequality-integers.lagda.md:230]: [$n$Lab](https://ncatlab.org/nlab/show/dense+relation) seems to be suggesting "denseness" makes sense for any binary relation.

File: src/elementary-number-theory/addition-positive-and-negative-integers.lagda.md [hunk 8]
```diff
@@ -0,0 +1,194 @@
...
+|  negative   |  negative   |  negative   | `add-negative-ℤ`    |
+|  negative   | nonpositive |  negative   |                     |
+| nonpositive |  positive   |     ??      |                     |
+| nonpositive | nonnegative |     ??      |                     |
+| nonpositive |  negative   |  negative   |                     |
+| nonpositive | nonpositive | nonpositive | `add-nonpositive-ℤ` |
+
+where ?? marks undetermined cases.
+
+## Properties
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/addition-positive-and-negative-integers.lagda.md:55]: yes, I suspected that having the definitions after the properties was a bit backwards in comparison with the rest of the library. Thanks.

File: src/elementary-number-theory/reduced-integer-fractions.lagda.md [hunk 9]
```diff
@@ -557,5 +562,7 @@ unique-reduce-fraction-ℤ x y H =
         ( pair
           (unique-denominator-reduce-fraction-ℤ x y H)
           (eq-is-prop
-            ( is-prop-is-positive-ℤ (int-reduce-denominator-fraction-ℤ y))))))
+            ( is-prop-is-in-subtype
+              ( subtype-positive-ℤ)
+              ( int-reduce-denominator-fraction-ℤ y))))))
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/reduced-integer-fractions.lagda.md]: I think at some point in the beginning I tried to define `subtype-positive-ℤ` directly using `unit-Prop` and `empty-Prop` which seemed more natural to me but I changed it back after I realized it broke a lot of pattern matching. I will go back to the simpler `is-prop-is-positive-ℤ`.

File: src/elementary-number-theory/positive-integers.lagda.md [hunk 10]
```diff
@@ -0,0 +1,155 @@
...
+open import foundation.subtypes
+open import foundation.unit-type
+open import foundation.universe-levels
+```
+
+</details>
+
+## Idea
+
+The positive integers are `one-ℤ` and its successors.
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/positive-integers.lagda.md:34]: This seems a bit circular since we are defining inequalities in term of non-negativity or positivity of a difference of integers.

**Comment by malarbol** [comment]
>Sorry for writing so many comments.

Don't need to; on the contrary. Your comments are really helpful to me and I'm the one who started with all my questions and doubts! 

>Your work is already very good, and looks ready to be merged soon!

Thanks. I'll be a bit busy in the next few days but I'll try to address all your comments and suggestions (and the few remaining doubts) for next week.

File: src/elementary-number-theory/inequality-integers.lagda.md (hunk 7 above)
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/inequality-integers.lagda.md:243]: I'd be happy to write a bit more about connected or dense relations but (as always) I'd have to give it a few thoughts and probably discuss  a bit more about "the right definitions" or what properties you expect.
Maybe we could leave it for another issue/PR? (I'm still thinking about #1060 for later and possibly a module about `positive-rationals` to pave the way for metric spaces, Cauchy sequences, etc.)

File: src/elementary-number-theory/inequality-integers.lagda.md
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/inequality-integers.lagda.md:1]: Ok. I've put the `leq-le-ℤ` function in the `strict-inequality-integers` module so it has to import the `inequality-integers` module, which is what you wanted if I understood correctly. Do you also want some separate `strict-inequality-integer-fractions` and `strict-inequality-rational-numbers` module?

File: src/elementary-number-theory/positive-integers.lagda.md [hunk 11]
```diff
@@ -0,0 +1,155 @@
...
+
+## Properties
+
+### Positivity is decidable
+
+```agda
+is-decidable-is-positive-ℤ : is-decidable-fam is-positive-ℤ
+is-decidable-is-positive-ℤ (inl x) = inr id
+is-decidable-is-positive-ℤ (inr (inl x)) = inr id
+is-decidable-is-positive-ℤ (inr (inr x)) = inl star
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/positive-integers.lagda.md:88]: ok. I also defined them for  the `nonnegative`, etc.  types.

File: src/elementary-number-theory/positive-and-negative-integers.lagda.md [hunk 12]
```diff
@@ -0,0 +1,249 @@
...
+    ( is-nonpositive-neg-is-nonnegative-ℤ H)
+    ( is-positive-neg-is-negative-ℤ K)
+
+is-nonnegative-not-is-negative-ℤ :
+  {x : ℤ} → ¬ (is-negative-ℤ x) → is-nonnegative-ℤ x
+is-nonnegative-not-is-negative-ℤ {x} H =
+  rec-coproduct
+    ( λ K → ex-falso (H K))
+    ( id)
+    ( decide-is-negative-is-nonnegative-ℤ)
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/positive-and-negative-integers.lagda.md]: ok. fixed that. Do you want me to also change the name of `remainder-min-dist-succ-x-not-is-nonzero` in the Bezout's for natural numbers module?

File: src/elementary-number-theory/inequality-integers.lagda.md [hunk 13]
```diff
@@ -98,125 +157,133 @@ concatenate-eq-leq-ℤ :
...
 
-## Properties
+### The strict ordering on the integers is decidable
 
 ```agda
-transitive-le-ℤ : (k l m : ℤ) → le-ℤ k l → le-ℤ l m → le-ℤ k m
-transitive-le-ℤ k l m p q =
-  tr is-positive-ℤ
+is-decidable-le-ℤ : (x y : ℤ) → (le-ℤ x y) + ¬ (le-ℤ x y)
+is-decidable-le-ℤ x y = is-decidable-is-positive-ℤ (y -ℤ x)
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/inequality-integers.lagda.md]: What do you mean by that?

File: src/elementary-number-theory/inequality-integers.lagda.md
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/inequality-integers.lagda.md:1]: Hi again. I finally did the `strict-inequality-rational-numbers` module. I'm not sure if a `strict-inequality-integer-fractions` is completely necessary but I guess I could do it if you really want.

File: src/elementary-number-theory/inequality-integers.lagda.md (hunk 13 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/elementary-number-theory/inequality-integers.lagda.md]: The naming convention has changed slightly over time. What we would have used to name `le-ℤ-Decidable-Prop` should now be named `le-decidable-prop-ℤ`. The same goes for `le-ℤ-Prop` and so on, but since the new naming convention is not implemented in `elementary-number-theory` at all, it is best to follow the old naming convention currently.

[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/inequality-integers.lagda.md]: oh. ok, I understand. Then I agree it will be easier to update the whole `elementary-number-theory` module to the new naming convention in a separate PR.

File: src/elementary-number-theory/inequality-integers.lagda.md
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/elementary-number-theory/inequality-integers.lagda.md:1]: Great, the files are looking pretty good!

> I'm not sure if a `strict-inequality-integer-fractions` is completely necessary but I guess I could do it if you really want.

While I think this would be good for consistency, you don't have to do everything in this pull request

File: src/elementary-number-theory/positive-and-negative-integers.lagda.md (hunk 12 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/elementary-number-theory/positive-and-negative-integers.lagda.md]: When it comes to the files about Bezout's lemma, do whatever makes your life the easiest (aside from outright deleting the files of course 😅)

[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/positive-and-negative-integers.lagda.md]: I'll definitely sleep better if the names are consistent across the files.

File: src/elementary-number-theory/positive-integers.lagda.md (hunk 10 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/elementary-number-theory/positive-integers.lagda.md]: oh, that's a very good point. I want to go back on this suggestion then

File: src/elementary-number-theory/inequality-integers.lagda.md [hunk 14]
```diff
@@ -46,34 +64,66 @@ _≤-ℤ_ = leq-ℤ
...
+```agda
+is-decidable-leq-ℤ : (x y : ℤ) → (leq-ℤ x y) + ¬ (leq-ℤ x y)
+is-decidable-leq-ℤ x y = is-decidable-is-nonnegative-ℤ (y -ℤ x)
+
+leq-ℤ-Decidable-Prop : (x y : ℤ) → Decidable-Prop lzero
+leq-ℤ-Decidable-Prop x y =
+  ( leq-ℤ x y ,
+    is-prop-leq-ℤ x y ,
+    is-decidable-leq-ℤ x y)
+```
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/elementary-number-theory/inequality-integers.lagda.md:100]: Oh, hmm. I thought it did for `decidable-total-order-natural-numbers` but turns out it doesn't

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/elementary-number-theory/inequality-integers.lagda.md:100]: Your call. I'm still a bit confused about how to think about those files.

File: src/elementary-number-theory/positive-integers.lagda.md (hunk 10 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/elementary-number-theory/positive-integers.lagda.md]: So, perhaps a little more deliberation is in order here. It can start with something like

````suggestion
The [integers](elementary-number-theory.integers.md) are defined as a [disjoint sum](foundation-core.coproduct-types.md) of three components. A single element component consisting of the integer _zero_, and two copies of the [natural numbers](elementary-number-theory.natural-numbers.md), one copy for the [negative integers](elementary-number-theory.negative-integers.md) and one copy for the _positive integers_. Arranged on a number line, we have

```text
  ⋯  -4  -3  -2  -1   0   1   2   3   4   ⋯
  <---+---+---+---]   |   [---+---+---+--->
```

 We say an integer is {{#concept "positive" Disambiguation="integer" Agda=is-positive-ℤ}} if it is an element of the positive component of the integers.
````

File: src/elementary-number-theory/inequality-integers.lagda.md (hunk 7 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/elementary-number-theory/inequality-integers.lagda.md]: Okay, let's leave this discussion for another time. I'd just like to state its good practice to formalize the concept that is being used, and use that definition. This improves the reusability and maintainability of the formalization, and places it in a wider context that may be informative to readers and other contributors.

File: src/elementary-number-theory/nonnegative-integers.lagda.md [hunk 15]
```diff
@@ -0,0 +1,170 @@
...
+subtype-nonnegative-ℤ : subtype lzero ℤ
+subtype-nonnegative-ℤ x = is-nonnegative-ℤ x , is-prop-is-nonnegative-ℤ x
+
+nonnegative-ℤ : UU lzero
+nonnegative-ℤ = type-subtype subtype-nonnegative-ℤ
+
+is-nonnegative-eq-ℤ :
+  {x y : ℤ} → x ＝ y → is-nonnegative-ℤ x → is-nonnegative-ℤ y
+is-nonnegative-eq-ℤ refl = id
+
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/elementary-number-theory/nonnegative-integers.lagda.md]: Feel free to resolve conversations like this one after you've implemented the suggested change when there isn't a follow-up question or uncertainty about the change. This makes the review process slightly more frictionless for me

File: src/elementary-number-theory/inequality-integers.lagda.md (hunk 7 above)
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/inequality-integers.lagda.md]: ok. I understand. I guess I could had some definitions foe connectedness, density, locatedness (and maybe I'm forgetting some) in the `binary-relations` module. or maybe add a `connected-binary-relations` module (if so, where?) but since it will be outside the `elementary-number-theory` module I think it will be cleaner to do this in a separate PR.
I can try it after we merge this one.

File: src/elementary-number-theory/positive-integers.lagda.md (hunk 10 above)
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/positive-integers.lagda.md]: ok; this indeed looks pretty nice. I'll make the corresponding changes for nonnegative, etc. integers.

File: src/elementary-number-theory/inequality-integer-fractions.lagda.md (hunk 1 above)
Comment (malarbol) [reply src/elementary-number-theory/inequality-integer-fractions.lagda.md]: Are you happy with the new naming scheme? I took the names `left-law-leq-add-XX` and  `right-law-leq-add-XX` from the `inequality-natural-numbers` and tried to uses the same names / signatures across the different modules.

**Comment by malarbol** [comment]
I think this covers #1043 
I've got a few more things for the `elementary-number-theory` module (e.g. additive inverse of rational numbers, properties for addition/multiplication of rational numbers, etc.) Do you want me to include them in this PR or do you want to merge this first and leave my new code for the next one? I think this is already quite much so it would be better to merge this now, close #1043, and keep going with a clean slate.

**Comment by fredrik-bakke** [comment]
> I think this covers #1043 I've got a few more things for the `elementary-number-theory` module (e.g. additive inverse of rational numbers, properties for addition/multiplication of rational numbers, etc.) Do you want me to include them in this PR or do you want to merge this first and leave my new code for the next one? I think this is already quite much so it would be better to merge this now, close #1043, and keep going with a clean slate.

Congrats! Yes, I think it is best to open a new PR for new additions.

File: src/elementary-number-theory/negative-integers.lagda.md [hunk 16]
```diff
@@ -0,0 +1,170 @@
...
+is-decidable-is-negative-ℤ (inr x) = inr id
+
+decidable-subtype-negative-ℤ : decidable-subtype lzero ℤ
+decidable-subtype-negative-ℤ x =
+  ( is-negative-ℤ x ,
+    is-prop-is-negative-ℤ x ,
+    is-decidable-is-negative-ℤ x)
+```
+
+### The negative integers are a `Set`
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/negative-integers.lagda.md:109]:
```suggestion
### The negative integers form a set
```

File: src/elementary-number-theory/nonpositive-integers.lagda.md [hunk 17]
```diff
@@ -0,0 +1,191 @@
...
+is-decidable-is-nonpositive-ℤ (inr (inr x)) = inr id
+
+decidable-subtype-nonpositive-ℤ : decidable-subtype lzero ℤ
+decidable-subtype-nonpositive-ℤ x =
+  ( is-nonpositive-ℤ x ,
+    is-prop-is-nonpositive-ℤ x ,
+    is-decidable-is-nonpositive-ℤ x)
+```
+
+### The nonpositive integers are a `Set`
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/nonpositive-integers.lagda.md:115]:
```suggestion
### The nonpositive integers form a set
```

File: src/elementary-number-theory/nonpositive-integers.lagda.md [hunk 18]
```diff
@@ -0,0 +1,191 @@
...
+
+```agda
+is-set-nonpositive-ℤ : is-set nonpositive-ℤ
+is-set-nonpositive-ℤ =
+  is-set-emb
+    ( emb-subtype subtype-nonpositive-ℤ)
+    ( is-set-ℤ)
+```
+
+### The only nonpositive integer with a nonpositive negative is zero-ℤ
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/nonpositive-integers.lagda.md:125]:
```suggestion
### The only nonpositive integer with a nonpositive negative is zero
```

File: src/elementary-number-theory/nonnegative-integers.lagda.md [hunk 19]
```diff
@@ -0,0 +1,198 @@
...
+is-decidable-is-nonnegative-ℤ (inr x) = inl star
+
+decidable-subtype-nonnegative-ℤ : decidable-subtype lzero ℤ
+decidable-subtype-nonnegative-ℤ x =
+  ( is-nonnegative-ℤ x ,
+    is-prop-is-nonnegative-ℤ x ,
+    is-decidable-is-nonnegative-ℤ x)
+```
+
+### The nonnegative integers are a `Set`
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/nonnegative-integers.lagda.md:112]:
```suggestion
### The nonnegative integers form a set
```

File: src/elementary-number-theory/nonnegative-integers.lagda.md [hunk 20]
```diff
@@ -0,0 +1,198 @@
...
+
+```agda
+is-set-nonnegative-ℤ : is-set nonnegative-ℤ
+is-set-nonnegative-ℤ =
+  is-set-emb
+    ( emb-subtype subtype-nonnegative-ℤ)
+    ( is-set-ℤ)
+```
+
+### The only nonnegative integer with a nonnegative negative is `zero-ℤ`
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/nonnegative-integers.lagda.md:122]:
```suggestion
### The only nonnegative integer with a nonnegative negative is zero
```

Comment (fredrik-bakke) [reply src/elementary-number-theory/nonnegative-integers.lagda.md:122]: I think this reads a little better

File: src/elementary-number-theory/positive-and-negative-integers.lagda.md [hunk 21]
```diff
@@ -0,0 +1,253 @@
...
+</details>
+
+## Idea
+
+In this file, we outline basic relations between negative, nonpositive,
+nonnegative, and positive integers.
+
+## Properties
+
+### The only nonnegative and nonpositive integer is `zero-ℤ`
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/positive-and-negative-integers.lagda.md:37]:
```suggestion
### The only nonnegative and nonpositive integer is zero
```

File: src/elementary-number-theory/positive-and-negative-integers.lagda.md
Comment (fredrik-bakke) [inline src/elementary-number-theory/positive-and-negative-integers.lagda.md:1]: This file is looking really good!

File: src/elementary-number-theory/positive-integers.lagda.md [hunk 22]
```diff
@@ -0,0 +1,181 @@
...
+
+decidable-subtype-positive-ℤ : decidable-subtype lzero ℤ
+decidable-subtype-positive-ℤ x =
+  ( is-positive-ℤ x ,
+    is-prop-is-positive-ℤ x ,
+    is-decidable-is-positive-ℤ x)
+```
+
+### The positive integers are a `Set`
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/positive-integers.lagda.md:111]:
```suggestion
### The positive integers form a set
```

File: src/elementary-number-theory/strict-inequality-integer-fractions.lagda.md [hunk 23]
```diff
@@ -0,0 +1,253 @@
...
+open import foundation.transport-along-identifications
+open import foundation.universe-levels
+```
+
+</details>
+
+## Idea
+
+A fraction `m/n` is strictly less than a fraction `m'/n'` iff `m * n'` is
+strictly less than `m' * n`.
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/strict-inequality-integer-fractions.lagda.md:45]:
```suggestion
An [integer fraction](elementary-number-theory.integer-fractions.md) `m/n` is _strictly less than_ the fraction `m'/n'` if the [integer product](elementary-number-theory.multiplication-integers.md) `m * n'` is
[strictly less](elementary-number-theory.strict-inequality-integers.md) than `m' * n`.
```
It's conventional to write "if" when defining a term, even though it does form a logical equivalence.

File: src/elementary-number-theory/strict-inequality-integer-fractions.lagda.md [hunk 24]
```diff
@@ -0,0 +1,253 @@
...
+          ( numerator-fraction-ℤ y *ℤ denominator-fraction-ℤ x))
+      ( H)
+      ( preserves-le-left-mul-positive-ℤ
+        ( positive-denominator-fraction-ℤ x)
+        ( numerator-fraction-ℤ x)
+        ( numerator-fraction-ℤ y)
+        ( H'))
+```
+
+### The mediant of two fractions is between them
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/strict-inequality-integer-fractions.lagda.md:235]:
```suggestion
### The mediant of two distinct fractions lies strictly between them
```

File: src/elementary-number-theory/strict-inequality-integers.lagda.md [hunk 25]
```diff
@@ -0,0 +1,169 @@
...
+open import order-theory.posets
+open import order-theory.preorders
+```
+
+</details>
+
+## Idea
+
+The {{#concept "strict ordering" Disambiguation="integers" Agda=le-ℤ}} of two
+integers is given by the positivity of their difference.
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/strict-inequality-integers.lagda.md:46]:
```suggestion
An [integer](elementary-number-theory.integers.md) `x` is _strictly less than_ the integer `y` if the [difference](elementary-number-theory.difference-integers.md) `y - x` is [positive](elementary-number-theory.positive-integers.md). This relation defines the {{#concept "standard strict ordering" Disambiguation="integers" Agda=leq-ℤ}} on the integers.
```

File: src/elementary-number-theory/strict-inequality-rational-numbers.lagda.md [hunk 26]
```diff
@@ -0,0 +1,275 @@
...
+```
+
+</details>
+
+## Idea
+
+The {{#concept "strict ordering" Disambiguation="rational numbers" Agda=le-ℚ}}
+of two rational numbers is given by the strict ordering of their underlying
+integer fractions as defined in
+[`inequality-integer-fractions`](elementary-number-theory.inequality-integer-fractions.md).
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/strict-inequality-rational-numbers.lagda.md:51]: Can you write something similar here as I suggested for inequality on rational numbers?

File: src/elementary-number-theory/strict-inequality-rational-numbers.lagda.md [hunk 27]
```diff
@@ -0,0 +1,275 @@
...
+  ( Id x y → A) →
+  ( le-ℚ y x → A) →
+  A
+trichotomy-le-ℚ x y left eq right with decide-le-leq-ℚ x y | decide-le-leq-ℚ y x
+... | inl I | _ = left I
+... | inr I | inl I' = right I'
+... | inr I | inr I' = eq (antisymmetric-leq-ℚ x y I' I)
+```
+
+### The mediant of two rationals is between them
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/strict-inequality-rational-numbers.lagda.md:231]:
```suggestion
### The mediant of two distinct rationals is strictly between them
```

File: src/elementary-number-theory/strict-inequality-rational-numbers.lagda.md [hunk 28]
```diff
@@ -0,0 +1,275 @@
...
+module _
+  (x y : ℚ) (H : le-ℚ x y)
+  where
+
+  dense-le-ℚ : ∃ ℚ (λ r → le-ℚ x r × le-ℚ r y)
+  dense-le-ℚ =
+    intro-∃
+      ( mediant-ℚ x y)
+      ( le-left-mediant-ℚ x y H , le-right-mediant-ℚ x y H)
+```
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/strict-inequality-rational-numbers.lagda.md:263]: You could also record this fact for integer fractions

**Review by fredrik-bakke — APPROVED** [review]
Looking very good! Let's work to get this merged now 😅

File: src/elementary-number-theory/inequality-integers.lagda.md [hunk 29]
```diff
@@ -46,34 +64,59 @@ _≤-ℤ_ = leq-ℤ
...
-      ( q)
-      ( p))
-
-decide-leq-ℤ :
-  {x y : ℤ} → (leq-ℤ x y) + (leq-ℤ y x)
-decide-leq-ℤ {x} {y} =
+    ( is-nonnegative-add-ℤ H K)
+
+trans-leq-ℤ : {k l m : ℤ} → leq-ℤ l m → leq-ℤ k l → leq-ℤ k m
+trans-leq-ℤ {k} {l} {m} = transitive-leq-ℤ k l m
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-integers.lagda.md:86]: Oh, by the way, I'm terribly sorry, but turns out that we removed `trans-leq-X` with implicit arguments at some point, so it wouldn't be too fitting to reintroduce them now. Sorry about this, totally my mistake!
```suggestion
```

File: src/elementary-number-theory/integers.lagda.md [hunk 30]
```diff
@@ -498,6 +287,14 @@ is-zero-is-zero-neg-ℤ (inr (inl star)) H = refl
...
 ## See also
 
+- The type of positive integers is defined in
+  [`positive-integers`](elementary-number-theory.positive-integers.md)
+- The type of nonnegative integers is defined in
+  [`nonnegative-integers`](elementary-number-theory.nonnegative-integers.md)
+- The type of negative integers is defined in
+  [`negative-integers`](elementary-number-theory.negative-integers.md)
+- The type of nonpositive integers is defined in
+  [`nonpositive-integers`](elementary-number-theory.nonpositive-integers.md)
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/integers.lagda.md:297]: ok. I guess the lines between "the files the reader may be looking for", "the files the reader may be interested in reading after this one" and "the files relevant to the current one" are a bit blurry but I understand you do not want to convert the library in a maze of links.

File: src/elementary-number-theory/inequality-integers.lagda.md (hunk 7 above)
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/inequality-integers.lagda.md]: I'll mark this as resolved; if you create a new Issue for connected / dense binary relations, ping me and I can give it a try.

File: src/elementary-number-theory/addition-integers.lagda.md [hunk 31]
```diff
@@ -30,9 +33,14 @@ open import foundation.unit-type
...
-respect to `succ-ℤ` and `neg-ℤ`. Properties of addition with respect to
-inequality are derived in `inequality-integers`.
+We introduce {{#concept "addition" Disambiguation="integers" Agda=add-ℤ}} on the
+integers and derive its basic properties with respect to `succ-ℤ` and `neg-ℤ`.
+Properties of addition with respect to positivity, nonnegativity, negativity and
+nonnpositivity are derived in
+[`addition-positive-and-negative-integers`](elementary-number-theory.addition-positive-and-negative-integers.md).
+Properties of addition with respect to inequality are derived in
+[`inequality-integers`](elementary-number-theory.inequality-integers.md) and
+[`strict-inequality-integers`](elementary-number-theory.strict-inequality-integers.md).
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/addition-integers.lagda.md]: > This fits well in a ## See also section at the end of the file

ok, I put it there to follow up with the original line

> Properties of addition with respect to inequality are derived in `inequality-integers`.

but now that there are three different external references, I agree it will be better in a `## See also` section.

File: src/elementary-number-theory/strict-inequality-rational-numbers.lagda.md (hunk 28 above)
Comment (malarbol) [reply src/elementary-number-theory/strict-inequality-rational-numbers.lagda.md:263]: ok; I also did the `located` property.

File: src/elementary-number-theory/inequality-integer-fractions.lagda.md [hunk 32]
```diff
@@ -32,12 +39,14 @@ open import foundation.universe-levels
 
 ## Idea
 
-A fraction `m/n` is less (or equal) to a fraction `m'/n'` iff `m * n'` is less
-(or equal) to `m' * n`.
+A fraction `m/n` is
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-integer-fractions.lagda.md:42]:
```suggestion
An [integer fraction](elementary-number-theory.integer-fractions.md) `m/n` is
```

File: src/elementary-number-theory/inequality-integers.lagda.md [hunk 33]
```diff
@@ -24,15 +32,30 @@ open import foundation.propositions
...
+to the integer `y` if the
+[difference](elementary-number-theory.difference-integers.md) `y - x` is
+[nonnegative](elementary-number-theory.nonnegative-integers.md). This relation
+defines the
+{{#concept "standard ordering" Disambiguation="integers" Agda=leq-ℤ}} on the
+integers.
+
 ## Definition
 
+### The standard inequality on the integers
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-integers.lagda.md:54]: "Standard ordering" or "inequality"

File: src/elementary-number-theory/inequality-integers.lagda.md [hunk 34]
```diff
@@ -172,55 +167,25 @@ preserves-leq-add-ℤ {a} {b} {c} {d} H K =
...
+  is-nonnegative-eq-ℤ (right-translation-diff-ℤ y x z)
+
+reflects-leq-right-add-ℤ :
+  (z x y : ℤ) → leq-ℤ (z +ℤ x) (z +ℤ y) → leq-ℤ x y
+reflects-leq-right-add-ℤ z x y =
+  is-nonnegative-eq-ℤ (left-translation-diff-ℤ y x z)
 ```
 
-### Inclusion of ℕ into ℤ preserves order
+### Inclusion of ℕ into ℤ preserves standard inequality
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-integers.lagda.md:188]: inequality*, not standard inequality

File: src/elementary-number-theory/inequality-integers.lagda.md [hunk 35]
```diff
@@ -233,5 +198,23 @@ leq-int-ℕ (succ-ℕ x) (succ-ℕ y) H = tr (is-nonnegative-ℤ)
   ( inv (diff-succ-ℤ (int-ℕ y) (int-ℕ x)) ∙
     ( ap (_-ℤ (succ-ℤ (int-ℕ x))) (succ-int-ℕ y) ∙
       ap ((int-ℕ (succ-ℕ y)) -ℤ_) (succ-int-ℕ x)))
-  (leq-int-ℕ x y H)
+  ( leq-int-ℕ x y H)
 ```
+
+### The partially ordered set of integers ordered by the standard inequality
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-integers.lagda.md:204]: Inequality*

**Review by fredrik-bakke — COMMENTED** [review]
In the library, I believe "inequality" is the name we use for the standard ordering on integers and so on. We shouldn't introduce "standard inequality" as an extra term for the same thing.

**Comment by malarbol** [comment]
>In the library, I believe "inequality" is the name we use for the standard ordering on integers and so on. We shouldn't introduce "standard inequality" as an extra term for the same thing.

Ok. I chose `inequality` over `order(ing)` to stick with the names of the files ; maybe this was an error and I should have kept a bit of both? And I just stuck `standard` in a few places because of your comment on the many orderings of ℤ but we can drop them if you prefer.

File: src/elementary-number-theory/inequality-rational-numbers.lagda.md [hunk 36]
```diff
@@ -98,18 +103,19 @@ antisymmetric-leq-ℚ x y H H' =
...
+    ( id)
+    ( is-nonnegative-eq-ℤ
+      (distributive-neg-diff-ℤ
+        ( numerator-ℚ y *ℤ denominator-ℚ x)
+        ( numerator-ℚ x *ℤ denominator-ℚ y)))
+    ( decide-is-nonnegative-is-nonnegative-neg-ℤ
+      { cross-mul-diff-fraction-ℤ (fraction-ℚ x) (fraction-ℚ y)})
 ```
 
 ### Transitivity properties
```
[the remark this answers is not in the document]
Comment (malarbol) [reply src/elementary-number-theory/inequality-rational-numbers.lagda.md]: I gave it another try but between my lack of knowledge on the library as a whole, the global naming choices I may not be aware of, and English not being my first language, maybe I'm not the best choice for this task? I tried my best but if you or anyone else want to rewrite my headers or re-organize some sections or anything, I don't  mind.

File: src/elementary-number-theory/inequality-natural-numbers.lagda.md [hunk 37]
```diff
@@ -229,7 +229,7 @@ succ-leq-ℕ zero-ℕ = star
 succ-leq-ℕ (succ-ℕ n) = succ-leq-ℕ n
 ```
 
-### An natural number less than `n+1` is either less than `n` or it is `n+1`
+### Any natural number less than `n+1` is either less than `n` or it is `n+1`
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-natural-numbers.lagda.md:232]:
```suggestion
### Any natural number less than or equal to `n+1` is either less than or equal to `n` or it is `n+1`
```

File: src/elementary-number-theory/inequality-natural-numbers.lagda.md [hunk 38]
```diff
@@ -133,7 +133,7 @@ antisymmetric-leq-ℕ (succ-ℕ m) (succ-ℕ n) p q =
   ap succ-ℕ (antisymmetric-leq-ℕ m n p q)
 ```
 
-### The poset of natural numbers
+### The partially ordered set of natural numbers ordered by the inequality
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-natural-numbers.lagda.md:136]:
```suggestion
### The partially ordered set of natural numbers ordered by inequality
```

File: src/elementary-number-theory/inequality-integers.lagda.md [hunk 39]
```diff
@@ -172,55 +167,25 @@ preserves-leq-add-ℤ {a} {b} {c} {d} H K =
...
+  is-nonnegative-eq-ℤ (right-translation-diff-ℤ y x z)
+
+reflects-leq-right-add-ℤ :
+  (z x y : ℤ) → leq-ℤ (z +ℤ x) (z +ℤ y) → leq-ℤ x y
+reflects-leq-right-add-ℤ z x y =
+  is-nonnegative-eq-ℤ (left-translation-diff-ℤ y x z)
 ```
 
-### Inclusion of ℕ into ℤ preserves order
+### Inclusion of ℕ into ℤ preserves inequality
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-integers.lagda.md:188]:
```suggestion
### The inclusion of ℕ into ℤ preserves inequality
```

File: src/elementary-number-theory/inequality-rational-numbers.lagda.md [hunk 40]
```diff
@@ -98,198 +109,50 @@ antisymmetric-leq-ℚ x y H H' =
...
-  concatenate-leq-le-ℚ : leq-ℚ x y → le-ℚ y z → le-ℚ x z
-  concatenate-leq-le-ℚ =
-    concatenate-leq-le-fraction-ℤ
-      ( fraction-ℚ x)
-      ( fraction-ℚ y)
-      ( fraction-ℚ z)
 ```
 
-### Strict inequality on the rational numbers reflects strict inequality on the underlying fractions
+### The partially ordered set of rational numbers ordered by the inequality
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/inequality-rational-numbers.lagda.md:142]:
```suggestion
### The partially ordered set of rational numbers ordered by inequality
```

File: src/elementary-number-theory/strict-inequality-natural-numbers.lagda.md [hunk 41]
```diff
@@ -1,4 +1,4 @@
-# Strict inequality natural numbers
+# Strict inequality on natural numbers
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/strict-inequality-natural-numbers.lagda.md:1]:
```suggestion
# Strict inequality on the natural numbers
```

File: src/elementary-number-theory/strict-inequality-integer-fractions.lagda.md [hunk 42]
```diff
@@ -0,0 +1,303 @@
+# Strict inequality on integer fractions
```
Comment (fredrik-bakke) [inline src/elementary-number-theory/strict-inequality-integer-fractions.lagda.md:1]:
```suggestion
# Strict inequality on the integer fractions
```

**Review by fredrik-bakke — APPROVED** [review]

**Comment by fredrik-bakke** [comment]
> > In the library, I believe "inequality" is the name we use for the standard ordering on integers and so on. We shouldn't introduce "standard inequality" as an extra term for the same thing.
> 
> Ok. I chose `inequality` over `order(ing)` to stick with the names of the files ; maybe this was an error and I should have kept a bit of both? And I just stuck `standard` in a few places because of your comment on the many orderings of ℤ but we can drop them if you prefer.

I think your choice is very sensible, and I can't see why it is a mistake. It seemed rather arbitrary how the prose kept switching between the two terms before.

**Comment by fredrik-bakke** [comment]
I like the current version of things, so I think this PR should be merged after my final suggestions have been implemented

**Comment by malarbol** [comment]
>It seemed rather arbitrary how the prose kept switching between the two terms before.

well, each contributor will have its own prose and preferred terms so I guess this is bound to happen somehow. But it does give a kind of "organic" touch. As a reader, it's nice to feel that this was written by humans  and that it's not just a juxtaposition of automatically derived proofs and generated text.

>I like the current version of things, so I think this PR should be merged after my final suggestions have been implemented

thx. I also quite liked how it all turned out. Thank you again for all your time and dedication.

**Comment by fredrik-bakke** [comment]
Thank _you_!

If you don't mind, may I keep myself as co-author of this contribution? Reviewers are automatically added as co-authors when you accept one of their suggestions, but we have a policy that we do not preserve co-authorship status in these cases unless the submitter agrees to it. Normally I wouldn't even ask, but given that we've worked so closely on this one it seems fitting to keep my name on it. I do not mean to take any credit away from you though, you definitely deserve most of it for your hard work!

**Comment by malarbol** [comment]
>If you don't mind, may I keep myself as co-author of this contribution?

Of course! I wouldn't have it any other way. I may have written most of the new code but I definitely consider we worked together on this. (and this goes for any future collaborations; I trust your judgment on your level of contribution).

**Comment by fredrik-bakke** [comment]
Merged!
